US06693193B1
A solution of 2-amino-4-benzyloxy-5-N-benzyloxymethylpyrrolo[3,2-d]pyrimidine (1.0 g) in methylene chloride (30 mL) was stirred in an ice bath while N-bromosuccinimide (0.5 g) was added portion-wise. The solution was concentrated and chromatography afforded 2-amino-4-benzyloxy-5-N-benzyloxymethyl-7-bromopyrrolo[3,2-d]pyrimidine (1.15 g) as a white solid. 13C NMR (CDCl3) δ 158.8, 157.2, 150.9, 137.3, 136.6, 131.8, 129.0, 128.8, 128.6, 128.5, 128.3, 127.9, 111.3, 90.3, 77.8, 70.7, 68.4.

reactant | 2-amino-4-benzyloxy-5-N-benzyloxymethylpyrrolo[3,2-d]pyrimidine | 1.0 g | NC=1N=C(C2=C(N1)C=CN2COCC2=CC=CC=C2)OCC2=CC=CC=C2 | C21H20N4O2
reactant | N-bromosuccinimide | 0.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-4-benzyloxy-5-N-benzyloxymethyl-7-bromopyrrolo[3,2-d]pyrimidine | 1.15 g | NC=1N=C(C2=C(N1)C(=CN2COCC2=CC=CC=C2)Br)OCC2=CC=CC=C2 | C21H19BrN4O2
